US06967201B1
1-(4-chloro-5-fluorobenzofur-7-yl)piperazine Hydrochloride
Beginning with 4-chloro-5-fluoro-7-bromobenzofuran and piperazine, the title compound was prepared as described.

reactant | 4-chloro-5-fluoro-7-bromobenzofuran | ClC1=C(C=C(C2=C1C=CO2)Br)F | C8H3BrClFO
reactant | piperazine | N1CCNCC1 | C4H10N2
product | 1-(4-chloro-5-fluorobenzofur-7-yl)piperazine Hydrochloride | Cl.ClC1=C(C=C(C2=C1C=CO2)N2CCNCC2)F | InChI=1S/C12H12ClFN2O.ClH/c13-11-8-1-6-17-12(8)10(7-9(11)14)16-4-2-15-3-5-16;/h1,6-7,15H,2-5H2;1H
